US06982274B2
3-Bromo-4-fluoro-1H-5-indazolecarboxylic acid methyl ester
To a solution of 2.2 g of 4-fluoro-1H-5-indazolecarboxylic acid methyl ester obtained in Production Example II-13-c in 20 ml dimethylformamide was added 2.12 g of N-bromosuccinimide at room temperature, and the mixture was stirred at the same temperature for 1 hour. After removing the solvent by distillation, 120 ml of ethyl acetate was added to the residue. The mixture was sequentially washed with half-saturated aqueous sodium hydrogencarbonate solution, water and brine, dried over anhydrous magnesium sulfate and the solvent was evaporated, to give 3.0 g of the title compound as bright yellow crystals.

reactant | 4-fluoro-1H-5-indazolecarboxylic acid methyl ester | 2.2 g | COC(=O)C=1C(=C2C=NNC2=CC1)F | C9H7FN2O2
reactant | N-bromosuccinimide | 2.12 g | BrN1C(CCC1=O)=O | C4H4BrNO2
solvent | dimethylformamide | 20 ml | CN(C=O)C | C3H7NO
product | 3-Bromo-4-fluoro-1H-5-indazolecarboxylic acid methyl ester | 3.0 g | COC(=O)C=1C(=C2C(=NNC2=CC1)Br)F | C9H6BrFN2O2
